US09085555B2
6-Difluoromethoxy-3-isocyanato-indole-1-carboxylic acid amide
was prepared from 6-difluoromethoxy-1H-indole [200207-21-2] using the protocol described for steps B-E in Scheme A4 for the preparation of 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide.

reactant | 6-difluoromethoxy-1H-indole | FC(OC1=CC=C2C=CNC2=C1)F | C9H7F2NO
reactant | 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide | C(C=C)OC=1C=C2C(=CN(C2=CC1)C(=O)N)N=C=O | C13H11N3O3
product | 6-Difluoromethoxy-3-isocyanato-indole-1-carboxylic acid amide | FC(OC1=CC=C2C(=CN(C2=C1)C(=O)N)N=C=O)F | C11H7F2N3O3
